






*** From file TIP140.LIB
.SUBCKT tip140 1 2 3
* Model generated on Feb  8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 19.6725
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS



*** From file TIP140_141_142.lib
* TIP142 NPN EPITAXIAL SILICON TRANSISTOR ELECTRICAL PARAMETER
* Power Darlington Transistor
* =======================================================================
* Complement to TIP145 / TIP146 / TIP147  Respectively
* =======================================================================
* Vcbo & Vceo: TIP140 60V / TIP141 80V / TIP142 100V
* Ic(DC) 10A / Ic(Pulse) 15A / Ib 0.5A
* =======================================================================
* Connections:    Collector 1   Base 2  Emitter 3
* =======================================================================
.SUBCKT TIP142     1  2  3
*
Q1 1 2 4 Q1model
Q2 1 4 3 Q2model 5.888
D1 3 1 Dmodel
R1 2 4 8.000E3
R2 4 3 120
.MODEL Dmodel D
+  IS=4.721E-12         RS=1.083E-6         N=1.068
+  CJO=4.822E-10        VJ=.5               M=.34
+  FC=.5
.MODEL Q1model NPN
+  IS=8.075E-14         BF=7.827E3          NF=1
+  VAF=100              IKF=1.094           ISE=4.463E-13
+  NE=1.337             BR=0.1001           NR=1
+  VAR=100              IKR=0.4891          ISC=2.302E-13
+  NC=3.197             RB=2.222            RE=0.001
+  RC=0.990             EG=1.110            CJE=4.389E-10
+  VJE=0.77             MJE=0.3101          CJC=4.852E-10
+  VJC=0.4855           MJC=0.3379          XCJC=0.469
+  FC=.5
.MODEL Q2model NPN
+  IS=8.075E-14         BF=7.827E3          NF=1
+  VAF=100              IKF=1.094           ISE=4.463E-13
+  NE=1.297             BR=0.1001           NR=1
+  VAR=100              IKR=0.4891          ISC=2.302E-13
+  NC=3.197             RB=2.222            RE=0.001
+  RC=0.990             EG=1.110            CJE=4.389E-10
+  VJE=0.77             MJE=0.3101          CJC=0
+  VJC=0.4855           MJC=0.3379          XCJC=0.469
+  FC=0.5
.ENDS
* ======================================================================
* FAIRCHILD      CASE: TO-3P      PID: TIP142
* FEB-28-2001 CREATION


*** From file TIP141.LIB
.SUBCKT tip141 1 2 3
* Model generated on Feb  8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 19.6725
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS



*** From file TIP145.LIB
.SUBCKT tip145 1 2 3
* Model generated on Feb  8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 9.26065
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


* ==============================================================================
* FAIRCHILD      CASE: TO-3P      PID: TIP145/146/147
* FEB-28-2001 CREATION


*** From file TIP146.LIB
.SUBCKT tip146 1 2 3
* Model generated on Feb  8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 9.26065
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS



*** From file TIP147.LIB
.SUBCKT tip147 1 2 3
* Model generated on Feb  8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 9.26065
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
